US07160888B2
A first intermediate compound, 1-(4-Fluoro-naphthalen-1-yl)-piperazine, was produced as follows: A mixture of dicyclohexylphosphino biphenyl (0.155 g, 0.444 mmol, 0.1 mmol) and palladium acetate (0.099 g, 0.444 mmol, 0.1 equiv) in dry toluene (15 mL) was bubbled with N2 gas for two hours. To the resultant clear solution was added 1-bromo-4-fluoro naphthalene (1.0 g, 4.44 mmol, 1.0 equiv) followed by 1-Boc-piperazine (1.0 g, 5.33 mmol, 1.2 equiv). To this mixture was added NaOtBu (0.600 g, 6.22 mmol, 1.4 equiv) and the reaction mixture was stirred at 80° C. overnight. The reaction mixture was cooled to room temperature, and the solvent was removed under reduced pressure. The residue was taken up in CH2Cl2, filtered through a celite bed, and then rinsed with CH2Cl2. The combined filtrates were concentrated and purified by column chromatography on silica (20% EtOAc in hexane). 4-(4-Fluoro-naphthalen-1-yl)-piperazine-1-carboxylic acid tert-butyl ester (1.4 g, impure) was obtained as a dark viscous liquid, which was used in the next step without further purification. 1H NMR: (400 MHz, CDCl3) δ 8.25 (m, 1H), 8.05 (m, 1H), 7.55 (m, 2H), 7.05–6.80 (m, 2H), 4.00 (br s, 4H), 3.00 (br s, 4H), 1.45(s, 9H). MS: ES+ 331.13 (M+H)+ (Exact mass: 330.17).

reactant | dicyclohexylphosphino biphenyl | 0.444 mmol, 0.155 g | C1(CCCCC1)P(C1CCCCC1)C1=C(C=CC=C1)C1=CC=CC=C1 | C24H31P
reactant | 1-bromo-4-fluoro naphthalene | 4.44 mmol, 1.0 g, 1.0 equiv | BrC1=CC=C(C2=CC=CC=C12)F | C10H6BrF
reactant | 1-Boc-piperazine | 5.33 mmol, 1.0 g, 1.2 equiv | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NaOtBu | 6.22 mmol, 0.600 g, 1.4 equiv | CC(C)(C)[O-].[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.444 mmol, 0.099 g, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4-Fluoro-naphthalen-1-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.4 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C2=CC=CC=C12)F | C19H23FN2O2
